US05142091
Preparation of [3,4-bis(4-methoxyphenyl)isoxazol-5-yl]acetic acid
To 15 ml of 2% aqueous solution of sodium hydroxide was added 1.77 g of methyl [3,4-bis(4-methoxyphenyl)isoxazol-5-yl]acetate obtained in Reference Example 1 and the mixture was stirred at 40° C. over night. After completion of the reaction, the reaction mixture was washed with ether twice, and thereto was added 5 ml of 10% HCl while cooling with ice. The mixture was extracted with ethyl acetate, and the organic layer was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The organic layer was concentrated at a reduced pressure, giving the above-identified compound as white solid.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl [3,4-bis(4-methoxyphenyl)isoxazol-5-yl]acetate | 1.77 g | COC1=CC=C(C=C1)C1=NOC(=C1C1=CC=C(C=C1)OC)CC(=O)OC | C20H19NO5
product | [3,4-bis(4-methoxyphenyl)isoxazol-5-yl]acetic acid | COC1=CC=C(C=C1)C1=NOC(=C1C1=CC=C(C=C1)OC)CC(=O)O | C19H17NO5
